US07538123B2
(1) 2-Allyloxy-4-hydroxybenzaldehyde
15.23 g of 2,4-dihydroxybenzaldehyde was dissolved in 200 ml of methyl ethyl ketone. Then, 15.54 g of potassium carbonate, 9.73 ml of allyl bromide, 18.67 g of potassium iodide, and 3.55 g of tetrabutylammonium bromide were successively added to the reaction solution. This reaction solution was heated to reflux under nitrogen atmosphere for 1.5 hours. The precipitate was removed by filtration, and the filtrate was concentrated under a reduced pressure. Ethyl acetate and water were added to the residue, so as to separate an organic layer. The organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. The residue was then purified by silica gel column chromatography (hexane/ethyl acetate), so as to obtain 13.72 g of the subject compound.

reactant | 2,4-dihydroxybenzaldehyde | 15.23 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | potassium carbonate | 15.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 9.73 ml | C(C=C)Br | C3H5Br
reactant | potassium iodide | 18.67 g | [I-].[K+]
solvent | methyl ethyl ketone | 200 ml | C(C)C(=O)C | C4H8O
catalyst | tetrabutylammonium bromide | 3.55 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Allyloxy-4-hydroxybenzaldehyde | 13.72 g | C(C=C)OC1=C(C=O)C=CC(=C1)O | C10H10O3
